US05922703
(3β,5β,14β,17β)-14-Amino-3-[[[(3-hydroxypropyl)amino]carbonyl]oxy]androstane-17-carboxylic Acid, Methyl Ester Hydrochloride
To a solution of 0.7 g (0.002 mole) of (3β,5β,14β,17β)-14-Amino-3-hydroxyandrostane-17-carboxylic Acid, Methyl Ester, prepared according to the procedure described in U.S. Pat. No. 4,885,280, incorporated by reference herein, in 25 ml of CH2Cl2 under N2 and stirring, is added 0.36 g (0.0022 mole) of 1,1'-carbonyldiimidazole. After the imidazole intermediate formation is complete (as indicated by TLC, 45 hr), 0.75 g (0.01 mole) of 1-amino-3-propanol is added and the solution is allowed to stir for 4 days. The solution is concentrated and the residue is taken up in fresh CH2Cl2 and is washed with water until the washing is neutral. After drying over MgSO4, CH2Cl2 is evaporated under reduced pressure to yield a white sticky solid weighing 680 mg. The solid is dissolved in 7 ml of CH2Cl2 and is purified through a silica gel column (approx. 3×20 cm) first with 5% MeOH/CH2Cl2 (with approx. 7 ml of conc. NH4OH) and then with 10% MeOH/CH2Cl2 (10 ml conc. NH4OH). The fractions are collected, combined and concentrated. The residue is treated with ethanolic HCl to yield the analytically pure (3β,5β,14β,17β)-14-Amino-3-[[[(3-hydroxypropyl)amino]carbonyl]oxy]androstane-17-carboxylic Acid, Methyl Ester Hydrochloride Final Product.

reactant | (3β,5β,14β,17β)-14-Amino-3-hydroxyandrostane-17-carboxylic Acid, Methyl Ester | 0.002 mole, 0.7 g | N[C@]12CC[C@@H]([C@@]1(C)CC[C@@H]1[C@]3(CC[C@@H](C[C@H]3CC[C@@H]21)O)C)C(=O)OC | C21H35NO3
reactant | 1,1'-carbonyldiimidazole | 0.0022 mole, 0.36 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | 1-amino-3-propanol | 0.01 mole, 0.75 g | NCCCO | C3H9NO
reactant | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
product | (3β,5β,14β,17β)-14-Amino-3-[[[(3-hydroxypropyl)amino]carbonyl]oxy]androstane-17-carboxylic Acid, Methyl Ester Hydrochloride | Cl.N[C@]12CC[C@@H]([C@@]1(C)CC[C@@H]1[C@]3(CC[C@@H](C[C@H]3CC[C@@H]21)OC(=O)NCCCO)C)C(=O)OC | InChI=1S/C25H42N2O5.ClH/c1-23-10-7-17(32-22(30)27-13-4-14-28)15-16(23)5-6-19-18(23)8-11-24(2)20(21(29)31-3)9-12-25(19,24)26;/h16-20,28H,4-15,26H2,1-3H3,(H,27,30);1H/t16-,17+,18+,19-,20-,23+,24-,25+;/m1./s1
